US06559174B2
A solution of 47 mg (0.063 mmol) of N-[(5-(3,5 -dichlorobenzensulfonyl)-1-ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4 (S)-carbonyl]-4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester in 2 mL of MeOH and 0.5 mL of water was treated with 7 mg (0.167 mmol) of LiOH—H2O. After stirring for 2 hr the solution was acidified (pH 2) with 1.2 N HCl and concentrated in vacuo. The residue purified by preparative TLC on silica eluted with 94.5:5:0.5 CH2Cl2:MeOH:HOAc to yield N-[(5-(3,5-dichlorobenzensulfonyl)-1 -ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4(S)-carbonyl]-4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine (35 mg) as a solid. LC-MS: m/e 727 (M+1).

reactant | (5-(3,5 -dichlorobenzensulfonyl)-1-ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4 (S)-carbonyl]-4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine, methyl ester | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC=2N(N=CC2[C@H]1C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)OC)CC | C30H26Cl4N6O6S
reactant | LiOH—H2O | 0.167 mmol, 7 mg | O[Li].O
reactant | HCl | 1.2 N | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | (5-(3,5-dichlorobenzensulfonyl)-1 -ethyl-1,4,5,6-tetrahydropyrrolo[3,4-c]pyrazole-4(S)-carbonyl]-4-(3′,5′-dichloroisonicotinoyl)amino-(L)-phenylalanine | 35 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N1CC=2N(N=CC2[C@H]1C(=O)N[C@@H](CC1=CC=C(C=C1)NC(C1=C(C=NC=C1Cl)Cl)=O)C(=O)O)CC | C29H24Cl4N6O6S
